US06455650B1
A 50 weight percent solution of butylnorbornene (5.0 g, 0.033 mol) was prepared in toluene. Lithium tetrakis(pentafluorophenyl)borate·2.5 Et2O (0.0012 g, 0.0014 mmol) was combined with (allyl)palladiumchloride dimer (100 μl of a 1.4 mmol solution in toluene) and 2,6-di-t-butylpyridine (100 μl of a 2.9 mmol solution in toluene) in toluene and added to the monomer mixture. A polymeric puck formed within 5-10 min at room temperature.

reactant | Et2O | 0.0014 mmol, 0.0012 g | CCOCC | C4H10O
reactant | 2,6-di-t-butylpyridine | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | (allyl)palladiumchloride | C(C=C)[Pd]Cl
product | butylnorbornene | 0.033 mol, 5.0 g | C(CCC)C12C=CC(CC1)C2 | C11H18
